US07553854B2
Step 1. Synthesis of 4-(2-(cyclohexylmethylamino)benzo[d]oxazol-6-yloxy)-N-methylpyridine-2-carboxamide
To a solution of 4-(2-(methylsulfinyl)benzo[d]oxazol-6-yloxy)-N-methylpyridine-2-carboxamide (1.40 g, 4.23 mmol, 1.0 eq) in 15 mL of THF was added cyclohexylmethanamine (955 mg, 8.46 mmol, 2.0 eq) at room temperature. The reaction mixture was stirred at that temperature for 2 hours. After the solvent was removed under reduced pressure, the residue was dissolved in 150 mL of ethyl acetate. The resulting mixture was washed with water (20 mL), brine (20 mL), then dried over MgSO4, filtered, and evaporated under reduced pressure to give crude product, which was purified by silica gel column eluted with ethyl acetate and hexane to give the titled compound. MH+=381.

reactant | 4-(2-(methylsulfinyl)benzo[d]oxazol-6-yloxy)-N-methylpyridine-2-carboxamide | 4.23 mmol, 1.40 g, 1.0 eq | CS(=O)C=1OC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)C(=O)NC | C15H13N3O4S
reactant | cyclohexylmethanamine | 8.46 mmol, 955 mg, 2.0 eq | C1(CCCCC1)CN | C7H15N
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-(2-(cyclohexylmethylamino)benzo[d]oxazol-6-yloxy)-N-methylpyridine-2-carboxamide | C1(CCCCC1)CNC=1OC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)C(=O)NC | C21H24N4O3
